US08426358B2
Synthesis of 3-(5-(ethylthio)-1,3,4-thiadiazol-2-ylthio)pyrazine-2-carbonitrile
The title compound was prepared according to the procedure described in Example 1 by using 5-(ethylthio)-1,3,4-thiadiazole-2-thiol (592 mg, 3.33 mmol), NaH (60% dispersion in mineral oil, 146 mg, 3.66 mmol), and 3-chloropyrazine-2-carbonitrile (422 mg, 3.02 mmol) in DMF and benzene (8 ml, 1/1) by stirring at 90° C. under nitrogen atmosphere overnight.

reactant | 5-(ethylthio)-1,3,4-thiadiazole-2-thiol | 3.33 mmol, 592 mg | C(C)SC1=NN=C(S1)S | C4H6N2S3
reactant | NaH | 3.66 mmol, 146 mg | [H-].[Na+]
reactant | 3-chloropyrazine-2-carbonitrile | 3.02 mmol, 422 mg | ClC=1C(=NC=CN1)C#N | C5H2ClN3
solvent | DMF | CN(C)C=O | C3H7NO
solvent | benzene | 8 ml | C1=CC=CC=C1 | C6H6
product | 3-(5-(ethylthio)-1,3,4-thiadiazol-2-ylthio)pyrazine-2-carbonitrile | C(C)SC1=NN=C(S1)SC=1C(=NC=CN1)C#N | C9H7N5S3
